US07786115B2
To a solution of 3-(7-bromo-1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide (1.13 g) in methanol (19 ml) and methylene chloride (45 ml) under an atmosphere of argon was added NaBH4 (114 mg) portionwise and the reaction stirred at room temperature for 17 hours. Concentrated hydrochloric acid (0.2 ml) was added and the reaction stirred for a further 1 hour. The reaction mixture was concentrated and the residue resuspended in methylene chloride, washed 2N HCl, dried (magnesium sulfate) and concentrated to give 3-(7-bromo-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide as a brown solid (157 mg); NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.70 (m, 2H), 2.10 (s, 3H), 2.85 (m, 1H), 6.80 (d, 1H), 7.42 (d, 1H), 7.51 (d, 1H), 7.78 (d, 1H), 7.79 (s, 1H), 7.89 (d, 1H), 7.97 (d, 1H), 8.35 (s, 1H), 8.44 (d, 1H); Mass Spectrum: M+H+ 421.

reactant | 3-(7-bromo-1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide | 1.13 g | BrC1=CC=C2CC(N(C(C2=C1)=O)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C20H17BrN2O3
reactant | NaBH4 | 114 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | methanol | 19 ml | CO | CH4O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | 3-(7-bromo-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-4-methylbenzamide | 157 mg | BrC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)NC2CC2)C=CC1C | C20H17BrN2O2
